US04245088
In water (5 ml) was dissolved 7β-(D-mandelamido)-3-mandelyloxymethyl-3-cephem-4-carboxylic acid (0.50 g) together with 5-mercapto-1-methyl-1H-tetrazole (0.12 g) and sodium hydrogen carbonate (0.17 g). The solution was stirred at 60° C. for 30 minutes. After cooling in the air, the reaction mixture was subjected to column chromatography on Amberlite XAD-2, elution being carried out with water and a solvent mixture of water and methanol. The fractions containing the desired product were pooled, concentrated and lyophilized. The procedure provided 7β-(D-mandelamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid sodium salt (0.34 g).

reactant | 7β-(D-mandelamido)-3-mandelyloxymethyl-3-cephem-4-carboxylic acid | 0.50 g | C([C@H](O)C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C(O)C2=CC=CC=C2)=O)C(=O)O)C1=O | C24H22N2O8S
reactant | 5-mercapto-1-methyl-1H-tetrazole | 0.12 g | SC1=NN=NN1C | C2H4N4S
reactant | sodium hydrogen carbonate | 0.17 g | C(O)([O-])=O.[Na+]
solvent | water | 5 ml | O | H2O
product | 7β-(D-mandelamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid sodium salt | 0.34 g | [Na+].C([C@H](O)C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)[O-])C1=O | InChI=1S/C18H18N6O5S2.Na/c1-23-18(20-21-22-23)31-8-10-7-30-16-11(15(27)24(16)12(10)17(28)29)19-14(26)13(25)9-5-3-2-4-6-9;/h2-6,11,13,16,25H,7-8H2,1H3,(H,19,26)(H,28,29);/q;+1/p-1/t11-,13-,16-;/m1./s1
